US08609150B2
1.0 g (4.3 mmol) of 3-bromo-5-chloro-2-methoxy-4-methylpyridine, 1.2 g (5.4 mmol) of 2,3,4-trimethoxy-6-methylphenylboronic acid, 1.8 g (13 mmol) of potassium carbonate, 46 mg (0.26 mmol) of palladium chloride, 147 mg (0.52 mmol) of tricyclohexylphosphine and 40 ml of tetrahydrofuran were put in a 200 ml autoclave, and carbon monoxide gas was injected to a pressure of 10 atm, followed by stirring at 120° C. for 20 hours. The reaction solution was subjected to filtration on the pad of celite, water was added, and tetrahydrofuran was distilled off under reduced pressure. The aqueous solution was extracted with ethyl acetate, the organic layer was dried over anhydrous magnesium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product was purified by silica gel column chromatography to obtain 0.31 g (yield: 20%) of 3-(2,3,4-trimethoxy-6-methylbenzoyl)-5-chloro-2-methoxy-4-methylpyridine (melting point 92 to 94° C.), and the compound was identified by 1HNMR.

reactant | 3-bromo-5-chloro-2-methoxy-4-methylpyridine | 4.3 mmol, 1.0 g | BrC=1C(=NC=C(C1C)Cl)OC | C7H7BrClNO
reactant | 2,3,4-trimethoxy-6-methylphenylboronic acid | 5.4 mmol, 1.2 g | COC1=C(C(=CC(=C1OC)OC)C)B(O)O | C10H15BO5
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | tricyclohexylphosphine | 0.52 mmol, 147 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | carbon monoxide | [C]=O | CO
catalyst | palladium chloride | 0.26 mmol, 46 mg | [Pd](Cl)Cl
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(2,3,4-trimethoxy-6-methylbenzoyl)-5-chloro-2-methoxy-4-methylpyridine | 0.31 g, yield: 20% | COC1=C(C(=O)C=2C(=NC=C(C2C)Cl)OC)C(=CC(=C1OC)OC)C | C18H20ClNO5
